US04237278
Compound 2: 2-Methyl-5-[2-(2,3-epoxypropoxy)-styryl]-1,3,4-thiadiazole
3.72 g (0.085 mole) of 55% strength sodium hydride in paraffin oil are suspended in 150 ml of absolute tetrahydrofuran and 18.6 g (0.085 mole) of 2-(2-hydroxystyryl)-5-methyl-1,3,4-thiadiazole in 200 ml of absolute hexamethylphosphorotriamide are then added dropwise at 0°-3° C. in the course of 1.5 hours. Stirring is continued at room temperature for 1 hour, after which 11.7 g (0.085 mole) of dibromohydrin are added dropwise. The solution is left to stand at room temperature for 16 hours and is then poured onto 1.5 liters of ice water and 0.5 liter of saturated sodium chloride solution. The solid obtained is filtered off and recrystallized from acetone. 11.8 g (51% of theory) of yellow crystals are obtained. Melting point 134°-135° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-(2-hydroxystyryl)-5-methyl-1,3,4-thiadiazole | 0.085 mole, 18.6 g | OC1=C(C=CC=2SC(=NN2)C)C=CC=C1 | C11H10N2OS
reactant | sodium chloride | 0.5 liter | [Cl-].[Na+]
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphorotriamide | 200 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 2-Methyl-5-[2-(2,3-epoxypropoxy)-styryl]-1,3,4-thiadiazole | CC=1SC(=NN1)C=CC1=C(C=CC=C1)OCC1CO1 | C14H14N2O2S
